US08835628B2
8-bromo-2-ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 1.5 g (7.9 mmol) of 2-bromo-6-aminophenol, 1.08 ml (0.9 eq, 7.11 mmol) of 1.8-diazabicyclo[5.4.0]undec-7-ene and 3.5 mL of DL-Ethyl 2-bromobutyrate (3 eq, 23.7 mmol)) in 30 mL of 1-Methyl-2-pyrrolidinone were mixed. 1.447 g of P1 were obtained, yield 71%.

reactant | 2-bromo-6-aminophenol | 7.9 mmol | BrC1=C(C(=CC=C1)N)O | C6H6BrNO
reactant | 1.8-diazabicyclo[5.4.0]undec-7-ene | 7.11 mmol, 1.08 ml, 0.9 eq | N12CCCCCC2=NCCC1 | C9H16N2
reactant | DL-Ethyl 2-bromobutyrate | 23.7 mmol, 3.5 mL, 3 eq | CCC(C(=O)OCC)Br | C6H11BrO2
solvent | 1-Methyl-2-pyrrolidinone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | 8-bromo-2-ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 71% | BrC1=CC=CC2=C1OC(C(N2)=O)CC | C10H10BrNO2
